US06288062B1
4-(4-Fluorophenyl)-2-[4-(methylsulfinyl)phenyl]-5-(4-pyridyl)oxazole
To a mixture of 4-(4-fluorophenyl)-2-(4methylthiophenyl)-5-(4-pyridyl)oxazole (0.056 g, 0.15 mmol) in glacial acetic acid (12 mL) was added a solution of K2S2O8 (0.07 g, 024 mmol) in H2O (2 mL). After stirring at rt for 48 hr, the precipitate was filtered. Purification by column chromatography (25:1 CH2Cl2/MeOH), followed by trituration with Et2O afforded the title compound (0.014 g) as a white solid: ESMS (m/z)=379.0 (M++H).

reactant | 4-(4-fluorophenyl)-2-(4methylthiophenyl)-5-(4-pyridyl)oxazole | 0.15 mmol, 0.056 g | FC1=CC=C(C=C1)C=1N=C(OC1C1=CC=NC=C1)C1=CC=C(C=C1)SC | C21H15FN2OS
reactant | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 2 mL | O | H2O
product | 4-(4-Fluorophenyl)-2-[4-(methylsulfinyl)phenyl]-5-(4-pyridyl)oxazole | 0.014 g | FC1=CC=C(C=C1)C=1N=C(OC1C1=CC=NC=C1)C1=CC=C(C=C1)S(=O)C | C21H15FN2O2S
